US04751328
Nitrobenzylbromide is derived from nitrobenzaldehyde, which is then reacted with potassium phthalimide to obtain N-(m-nitrobenzyl)-phthalimide, and m-aminobenzylamine is produced with an yield of about 20% by a two-step reduction reaction (N. Kornblum et al, J. Am. Chem. Soc., 71, 2137 (1949)).

reactant | Nitrobenzylbromide | [N+](=O)([O-])C(C1=CC=CC=C1)Br | C7H6BrNO2
reactant | nitrobenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
product | N-(m-nitrobenzyl)-phthalimide | [N+](=O)([O-])C=1C=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C15H10N2O4
